Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor vehicle accident/syncope 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting s/p MVC today and was found to be lethargic in 
the field. Glucose of 30 was noted. Patient was given 2 tubes of 
glucose and received 25g of D50 IV. The patient reported that he 
lost consciousness. However said that he must have been going 
very slow as the damage to the car was minimal and the air bags 
did not deploy. He reported no injuries or pain following the 
accident. He was taken to the ED following the administration of 
glucose. In our ED presented with glucose of 147. Patient is a 
insulin dependent diabetic and says that he took 6 units of 
Humalog 4 hours prior to the event and did not eat afterwards.  
 In the ED initial vitals were: 0 96.4 105 200/90 20 99% RA.  
 Labs/studies notable for: a creatinine of 3.2. Patient was 
given 1L of NS. He was not given any anti-hypertensive 
medication. His blood pressures came down to 160-170s systolic. 
He was admitted to the medicine service for treatment, diagnosis 
and management.  
 On the floor the patient's vitals were 97.8 135/49 65 18 96 on 
RA. The patient had no complaints and was urinating without 
complication.  
 
Past Medical History:
Type 1 Diabetes Mellitus, uncontrolled 
Chronic Kidney Disease stage III
Psoriasis 
Hypertension, essential
Hyperlipidemia 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION
==========
VS: 97.8 135/49 65 18 96 on RA  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP flat  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness. no costovertebral 
angle tenderness  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE
==========
VS 98.4 | 152/75 | 89 | 18 | 99 RA 
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP flat  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness. no costovertebral 
angle tenderness  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  
 
 
Pertinent Results:
ADMISSION
=========
___ 08:35PM BLOOD WBC-11.8*# RBC-4.55* Hgb-11.7* Hct-38.0* 
MCV-84 MCH-25.7* MCHC-30.8* RDW-14.5 RDWSD-43.5 Plt ___
___ 08:35PM BLOOD Neuts-83.0* Lymphs-10.5* Monos-4.6* 
Eos-1.3 Baso-0.3 Im ___ AbsNeut-9.76* AbsLymp-1.23 
AbsMono-0.54 AbsEos-0.15 AbsBaso-0.04
___ 08:35PM BLOOD Glucose-175* UreaN-62* Creat-3.2*# Na-138 
K-5.3* Cl-105 HCO3-22 AnGap-16
___ 08:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE
=========
___ 04:57AM BLOOD WBC-9.6 RBC-4.24* Hgb-10.7* Hct-35.0* 
MCV-83 MCH-25.2* MCHC-30.6* RDW-14.4 RDWSD-42.7 Plt ___
___ 04:57AM BLOOD Glucose-122* UreaN-36* Creat-2.3* Na-141 
K-4.8 Cl-105 HCO3-25 AnGap-16
___ 04:57AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.9

IMAGING
=======
___ U.S.
Normal renal ultrasound.

 
Brief Hospital Course:
___ with history of type 1 diabetes, hypertension, CKD stage 3 
(b/l Cr 2.2) who was brought by EMS after being found lethargy 
following MVC with FSG of 30. Also found to have Cr to 3.2 on 
admission. 

#Syncope: Secondary to hypoglycemia in setting of taking 
prandial dose of humalog without eating. No repeat 
pre-syncopal/syncopal events in house. No brady or 
tachyarrhthmias on 24h telemetry review. No orthostasis. 

#T1DM: Brittle. Fasting glucose in 300s prior to glargine 30U sc 
in house with FSG of 80 prior to lunch time. Reduced glargine to 
24U sc with improved pre-prandial FSG. Discharged on Glargine 
24U and Humalog 8U bid with meals. 

___ on CKD III: Baseline Cr 2.2, on admission 3.2. Improved to 
2.3 with IVF. Prot/Cr 2.1. Alb/Cr 1429.5. Likely secondary to 
diabetic and hypertensive nephropathy. Renal US without 
obstruction. 

#HTN: Lisinopril held on HOD#1 due to ___. Restarted upon 
discharge. 

TRANSITIONAL ISSUES:
#Hypoglycemia unawareness: Patient has noticed that her does not 
have symptoms and often finds his glucose <70. Will need 
re-education regarding this. Home medications such as labetalol 
and clonidine, although indicated for hypertension may blunt 
adrenergic response to hypoglycemia worsening his hypoglycemia 
unawareness. Consider alternate agents. 
#Proteinuria: Unclear whether compliant with lisinopril but very 
significant proteinuria placing him at risk of rapid progression 
into ESRD, recommend follow-up with nephrologist. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Glargine 30 Units Breakfast
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
2. amLODIPine 10 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
5. CloNIDine 0.1 mg PO BID 
6. Desonide 0.05% Cream 1 Appl TP BID 
7. Labetalol 100 mg PO BID 
8. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1. amLODIPine 10 mg PO DAILY 
2. Glargine 24 Units Breakfast
Humalog 8 Units Breakfast
Humalog 10 Units Lunch
3. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
4. CloNIDine 0.1 mg PO BID 
5. Desonide 0.05% Cream 1 Appl TP BID 
6. Lisinopril 40 mg PO DAILY 
7. Labetalol 100 mg PO BID 
8. Pravastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Syncope induced by iatrogenic hypoglycemia
2. Acute on chronic renal failure
3. Type 1 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after having a car accident where you lost 
consciousness due to low blood sugar. You were found to also 
have a new worsening in your renal function that improved with 
fluids. Your sugars were low in the hospital with your usual 
dose of lantus. We reduced it to avoid you from having events 
like this again. 

Do not forget to:
-ALWAYS eat when you use your humalog
-ALWAYS carry snacks with you and your glucometer
-Make an appointment with your primary care doctor with one week

___ was a pleasure to take care of you. 
Your ___ care team
 
Followup Instructions:
___